US07220759B2
(R)-3-[2-(2-hydroxymethylpyrrolidin-1-yl)ethyl]-5-methylisocoumarin hydrochloride (62 g) and acetic acid (186 mL) were added and ammonium carbonate (74.4 g) was gradually added to the mixture with stirring. After bubbling, the reaction mixture was heated and stirred at 130° C. for 2 hr with heating. After the completion of the reaction, the reaction mixture was cooled to room temperature and aqueous sodium hydroxide (140 g) solution (200 mL) was added. The mixture was stirred at 80° C., and after the completion of the reaction, the reaction mixture was concentrated. The methanol fraction was evaporated and the mixture was extracted twice with chloroform. The organic layer was extracted twice with 3N hydrochloric acid (300 mL and 100 mL), and potassium carbonate was added to the aqueous layer to basify the layer. The aqueous layer was extracted twice with chloroform, and the extract was dried over magnesium sulfate. The solvent was concentrated and ethyl acetate was added to the obtained residue. The mixture was further concentrated and the residue was dissolved in a small amount of ethyl acetate with heating. Diethyl ether was added to the solution and the precipitated crystals were collected by filtration to give (R)-3-[2-(2-hydroxymethylpyrrolidin-1-yl)ethyl]-5-methyl-2H-isoquinolin-1-one (41.5 g).

reactant | (R)-3-[2-(2-hydroxymethylpyrrolidin-1-yl)ethyl]-5-methylisocoumarin hydrochloride | 62 g | Cl.OC[C@@H]1N(CCC1)CCC=1OC(=O)C2=CC=CC(=C2C1)C
reactant | ammonium carbonate | 74.4 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | sodium hydroxide | 140 g | [OH-].[Na+]
solvent | acetic acid | 186 mL | C(C)(=O)O | C2H4O2
product | (R)-3-[2-(2-hydroxymethylpyrrolidin-1-yl)ethyl]-5-methyl-2H-isoquinolin-1-one | 41.5 g | OC[C@@H]1N(CCC1)CCC=1NC(C2=CC=CC(=C2C1)C)=O | C17H22N2O2
